US09061067B2
A mixture of 4′-cyano-4-hydroxybiphenyl (4.0 g, 20.5 mmol), MeCN (30 ml), ethyl 4-bromobutyrate (3.75 ml, 5.11 g, 26.2 mmol), and K2CO3 (3.86 g, 27.9 mmol) was stirred at 85° C. After 20 h water (150 ml) was added, and the product was extracted with AcOEt. The combined extracts were washed with brine, dried over MgSO4, and concentrated, to yield 6.91 g (100%) of 4-(4′-cyanobiphenyl-4-yloxy)butyric acid ethyl ester as an oil.

reactant | 4′-cyano-4-hydroxybiphenyl | 20.5 mmol, 4.0 g | C(#N)C1=CC=C(C=C1)C1=CC=C(C=C1)O | C13H9NO
reactant | MeCN | 30 ml | CC#N | C2H3N
reactant | ethyl 4-bromobutyrate | 26.2 mmol, 3.75 ml, 5.11 g | BrCCCC(=O)OCC | C6H11BrO2
reactant | K2CO3 | 27.9 mmol, 3.86 g | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 150 ml | O | H2O
product | 4-(4′-cyanobiphenyl-4-yloxy)butyric acid ethyl ester | 6.91 g, 100% | C(C)OC(CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)=O | C19H19NO3
